* Z:\mnt\design.r\spice\examples\1504-3.3.asc
V1 IN 0 5
L1 N003 OUT 50µ
C1 OUT 0 100µ
C2 N006 0 .01µ
R1 IN N001 47K
C3 N004 0 5000p
R2 N005 N004 5K
XU1 N001 IN N003 0 OUT N002 N006 N005 LTC1504
Rload OUT 0 50
.tran 5m startup
.lib LTC1504.sub
.backanno
.end
